US05859007
2-[3-(1H-indol-2-ylmethyl)-3-methoxy-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxyphenyl) acetamide
A solution of 0.76 g (2.0 mmol) of N-isopropyl-N-(4-methoxy-phenyl)-2-(2-phenylamino-phenylamino) acetamide, prepared as in Intermediate 43, in 10 mL of THF is added dropwise to a solution of 1.0 g (2.4 mmol) of 2-(N-tert-butoxycarbonyl-1H-indol-2-ylmethyl)-2-methoxy-malonyl dichloride in 35 mL of THF. The brown solution is heated at reflux for 1 d. After removal of THF in vacuo the residue is diluted with 100 mL of 1N HCl and extracted with EtOAc (×2). the organic extract is washed with 1N HCl, brine, sat. NaHCO3 and brine, dried over MgSO4 and concentrated in vacuo to a brown foam. Purification by silica gel flash chromatography (30-50% EtOAc/petroleum ether) followed by reverse phase C-18 MPLC (70-80% methanol/H2O) gave 0.15 g of the title compound as a white powder: 1H NMR (d6 -DMSO 300 MHz) δ10.78 (s,1H), 7.57 (d, 1H, J=6), 7.5-6.9 (m, 16H), 6.69 (d, 1H, J=8), 4.82 (m, 1H), 4.26 (m, 2H), 3.79 (s, 3H), 3.56 (q, 2H, J=16), 0.99 (t, 6H, J=7); low resolution MS (FAB) m/e 617 (MH+).

reactant | N-isopropyl-N-(4-methoxy-phenyl)-2-(2-phenylamino-phenylamino) acetamide | 2.0 mmol, 0.76 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC | C24H27N3O2
reactant | 2-(N-tert-butoxycarbonyl-1H-indol-2-ylmethyl)-2-methoxy-malonyl dichloride | 2.4 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)CC(C(=O)Cl)(C(=O)Cl)OC | C18H19Cl2NO5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 2-[3-(1H-indol-2-ylmethyl)-3-methoxy-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxyphenyl) acetamide | 0.15 g | N1C(=CC2=CC=CC=C12)CC1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)OC | C37H36N4O5
